US06881733B1
1-(tert-butoxycarbonyl)-1,2,3,4-tetrahydropyridin-4-one
A solution of 1.0 gm (9.16 mMol) 4-methoxypyridine in 15 mL tetrahydrofuran was cooled to −41° C. To this solution was added dropwise 12.6 mL (18.32 mMol) potassium tri(isopropoxy)borohydride (1.45 M in tetrahydrofuran). The resulting mixture was stirred for 15 minutes and then 1.58 gm (10.07 mMol) phenyl chloroformate were added and the resulting mixture stirred −41° C. After 2 hours, 7.19 gm (7.0 mMol) potassium tert-butoxide were added. After stirring at −41° C. for 30 minutes, the reaction mixture was allowed to warm to room temperature. After 2 hours at room temperature, the reaction mixture was cooled again to −41° C. and was then treated with saturated aqueous oxalic acid. The resulting mixture was extracted well with diethyl ether. The organic extracts were combined and washed sequentially with saturated aqueous oxalic acid, water, saturated aqueous sodium bicarbonate, and saturated aqueous sodium chloride. The remaining organic phase was dried over magnesium sulfate and concentrated under reduced pressure. The residual oil was subjected to silica gel chromatography, eluting with a gradient of hexane containing from 10-40% ethyl acetate. Fractions containing product were combined and concentrated under reduced pressure to provide 1.07 gm of the title compound as a white solid.

reactant | 4-methoxypyridine | 9.16 mMol, 1.0 gm | COC1=CC=NC=C1 | C6H7NO
reactant | potassium tri(isopropoxy)borohydride | 18.32 mMol, 1.45 M, 12.6 mL | C(C)(C)O[BH-](OC(C)C)OC(C)C.[K+]
reactant | phenyl chloroformate | 10.07 mMol, 1.58 gm | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | potassium tert-butoxide | 7.0 mMol, 7.19 gm | CC(C)([O-])C.[K+]
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 1-(tert-butoxycarbonyl)-1,2,3,4-tetrahydropyridin-4-one | 1.07 gm | C(C)(C)(C)OC(=O)N1CCC(C=C1)=O | C10H15NO3
